US05177206
Preparation of N-(2,6-Dichlorophenyl)-8-bromo-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonamide
2,6-Dichloroaniline (0.49 g, 3.1 mmol), 2-chlorosulfonyl-8-bromo-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine (1.0 g, 3.1 mmol), and 20 mL of dry acetonitrile were placed in a 100 mL flask equipped with a gas inlet adapter and a magnetic stirring bar. Pyridine (0.50 mL, 6.2 mmol) and dimethyl sulfoxide (0.06 mL, 0.8 mmol) were added with stirring under nitrogen and the mixture was allowed to react for 1 hr. The volatiles were then removed by evaporation under reduced pressure and the residue was dissolved in 150 mL of methylene chloride. The solution obtained was extracted 2 times with 100 mL of 1N HCl and once with 100 mL of water, dried over MgSO4, filtered, and concentrated by evaporation under reduced pressure to obtain a yellow solid. This solid was stirred with 200 mL of hexane and filtered to give 0.38 g (27 percent yield) of the title compound as a yellow solid melting at 198°-200° C. (d).

reactant | 2,6-Dichloroaniline | 3.1 mmol, 0.49 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | 2-chlorosulfonyl-8-bromo-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine | 3.1 mmol, 1.0 g | ClS(=O)(=O)C1=NN2C(=NC=C(C2=N1)Br)OC | C6H4BrClN4O3S
reactant | Pyridine | 6.2 mmol, 0.50 mL | N1=CC=CC=C1 | C5H5N
reactant | dimethyl sulfoxide | 0.8 mmol, 0.06 mL | CS(=O)C | C2H6OS
solvent | hexane | 200 mL | CCCCCC | C6H14
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(2,6-Dichlorophenyl)-8-bromo-5-methoxy-1,2,4-triazolo[1,5-c]-pyrimidine-2-sulfonamide | 0.38 g, 27 percent yield | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(=NC=C(C2=N1)Br)OC | C12H8BrCl2N5O3S
